Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ sp TACE

 
Major Surgical or Invasive Procedure:
TACE ___
 
History of Present Illness:
___ with PMHx of HCV (genotype 1a, last VL 7.6M in ___, HIV 
(dx ___, currently on salvage therapy), stage IV hepatic 
fibrosis (no prior hx of ascites, jaundice, HE, no varices), 
GERD, HCC, h/o IVDU, currently incarcerated, who presents for 
post-TACE monitoring. 

Pt underwent abdominal MRI in outpatient setting on ___ and 
was found to have a 3.5x2.5cm lesion at the dome of the liver 
which demonstrated arterial enhancement, washout and a 
pseudocapsule. Pt was referred for evaluation by Heme/Onc (Dr. 
___ and ___ and was scheduled for TACE. He underwent 
uneventful TACE on ___ccess. 

Post-procedure, pt reports feeling well, without any complaints. 


On ROS, he denies CP, SOB, nausea, vomiting, fevers, chills or 
abd pain. 10 point ROS otherwise negative. 

 
Past Medical History:
HCV (genotype 1a, last VL 7.6M in ___, HIV (dx ___, 
currently on salvage therapy), stage IV hepatic fibrosis (no 
prior hx of ascites, jaundice, HE, no varices), GERD, HCC
 
Social History:
___
Family History:
Uncle - HCV, ___  
Grandfather - MI
 
Physical ___:
ADMISSION
VS: 97.8, 110/62, 56, 18, 98%RA
Gen: Pleasant, NAD
HEENT: PERRL, EOMI, MMM
Neck: Supple, no JVD or LAD
Lungs: LCTA-bl, no w/r/r
Heart: RRR, no MRG, nl S1 and S2
Abd: +NABS, Soft, NTND, no HSM
Ext: FROM, no c/e/e; L radial site with dressing c/d/i
Neuro: CNII-XII intact, strength symmetric and intact (with 
limitation of pt being in handcuffs). No asterixis on 
brief/limited exam (attempting to keep L wrist in neutral 
position)

DISCHARGE
VS: 98.3, 146/82, 68, 18, 98%RA
Pain 0
Gen: Pleasant, NAD
HEENT: anicteric sclera
Neck: Supple
Lungs: CTAB
Heart: RRR, no MRG, nl S1 and S2
Abd: +NABS, Soft, NTND, no HSM
Ext: no c/e/e
Neuro: alert, answering questions appropriately, follows 
commands
 
Pertinent Results:
___ 11:45AM BLOOD WBC-9.7 RBC-4.72 Hgb-14.5 Hct-43.0 MCV-91 
MCH-30.7 MCHC-33.7 RDW-13.9 RDWSD-46.4* Plt ___
___ 11:45AM BLOOD ___
___ 11:45AM BLOOD UreaN-14 Creat-0.7 Na-139 K-4.0 Cl-105
___ 11:45AM BLOOD ALT-120* AST-129* AlkPhos-156* 
TotBili-1.1
___ 11:45AM BLOOD Calcium-9.9
___ 11:45AM BLOOD AFP-751.4*

 
TACE FINDINGS: 
1. Variant hepatic arterial anatomy with a replaced right 
hepatic artery 
arising from the superior mesenteric artery. The left hepatic 
artery arises from the left gastric artery. A middle hepatic 
artery arises from the common hepatic artery. 
2. Pre-embolization arteriogram showing tumor blush in segment 
8, supplied by branches of the replaced right hepatic artery. 
3. Successful chemoembolization of branches of the replaced 
right hepatic 
artery. 
4. Post embolization noncontrast cone beam CT demonstrates good 
treatment 
staining of the tumor. 
IMPRESSION:  
Successful left radial artery approach trans-arterial 
chemoembolization of 
segment 8 hepatic tumor with DEB TACE. 

 
Brief Hospital Course:
___ w/advanced liver fibrosis, HCV and HIV who was found to have 
a 3.5 cm mass on MRI meeting OPTN5B criteria for hepatocellular 
carcinoma, stage IV fibrosis, ECOG 0, presenting s/p TACE. Pt 
received 1000ml D5NS continuous at 100ml/hr for 24 hours. He had 
no pain or fever following procedure. His labs remained stable. 
He will need to follow up with ___ clinic in 1 week, MRI in 1 
month and oncology as previously scheduled.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Abacavir Sulfate 300 mg PO BID 
2. Fosamprenavir 700 mg PO Q12H 
3. Raltegravir 400 mg PO BID 
4. RiTONAvir 100 mg PO BID 
5. Omeprazole 20 mg PO BID 

 
Discharge Medications:
1. Abacavir Sulfate 300 mg PO BID 
2. Fosamprenavir 700 mg PO Q12H 
3. Omeprazole 20 mg PO BID 
4. Raltegravir 400 mg PO BID 
5. RiTONAvir 100 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Hepatocellular carcinoma
# HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to participate in your care at ___. You were 
admitted for a TACE procedure. You were monitored after the 
procedure. Please follow up with your hematologist and in the 
___ clinic in 1 week. We recommend a repeat MRI of your liver 
in 1 month.

Best Regards,
Your ___ Medicine Team
 
Followup Instructions:
___